US04261996
From 4,9-dihydro-7-(butylthio)-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid (3.17 g, 10 mmole), 1(N) NaOH soln (10 ml) in water (150 ml) and NaIO4 (2.14 g; 10 mmole) in water (50 ml); following the procedure of Example 7, there is obtained 4,9-dihydro-7-(butylsulfinyl)-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid, hemihydrate (2.0 g); mp 205°-210° (d) remelts at 260° (d) after crystallization from aq. methanol.

reactant | 4,9-dihydro-7-(butylthio)-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 10 mmole, 3.17 g | C(CCC)SC1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C15H15N3O3S
reactant | NaOH | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4,9-dihydro-7-(butylsulfinyl)-9-oxo-pyrazolo[5,1-b]-quinazoline-2-carboxylic acid, hemihydrate | 2.0 g | O.C(CCC)S(=O)C1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O.C(CCC)S(=O)C3=CC=1C(N2C(NC1C=C3)=CC(=N2)C(=O)O)=O | InChI=1S/2C15H15N3O4S.H2O/c2*1-2-3-6-23(22)9-4-5-11-10(7-9)14(19)18-13(16-11)8-12(17-18)15(20)21;/h2*4-5,7-8,16H,2-3,6H2,1H3,(H,20,21);1H2
